US08067445B2
Step 1: 1-(2,4-Dichloro-phenyl)-cyclopropanecarbonyl chloride
1-(2,4-Dichlorophenyl)-cyclopropanecarboxylic acid (0.086 g, 0.37 mmol) and triethylamine (0.08 mL, 0.56 mmol) were combined in CH2Cl2 (2 mL) and cooled to 0° C. Oxalyl chloride (0.05 mL, 0.56 mmol) was added, followed by DMF (3 drops), and the reaction was stirred for 20 minutes at 0° C. and then warmed to room temperature to give the title compound, which was used directly in the next step.

reactant | 1-(2,4-Dichlorophenyl)-cyclopropanecarboxylic acid | 0.37 mmol, 0.086 g | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)O | C10H8Cl2O2
reactant | triethylamine | 0.56 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | Oxalyl chloride | 0.56 mmol, 0.05 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 1-(2,4-Dichloro-phenyl)-cyclopropanecarbonyl chloride | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)Cl | C10H7Cl3O
